US05668289
Step A: 3-Nitro-6-trifluoromethyl-2-pyridinone
Butyl-2-trifluoroacetylvinylether (13.79 g, 70.29 mmol) and nitroacetamide (6.65 g, 63.90 mmol) were added to a stirred solution of sodium ethoxide (4.35 g, 63.90 mmol) in ethanol (320 ml). After heating the reaction at reflux for 24 h the residue was taken up in ethyl acetate and washed with 1M HCl (two times), dried (Na2SO4), and evaporated in vacuo. The crude product was purified by flash column chromatography on silica (eluting with 20% ethyl acetate/2% acetic acid/hexane) to give the title compound (5.73 g): 1H NMR (CD3OD) selected signals at δ 7.35 (d, J=8.1 Hz, 1H), 8.49 (d, J=8.1 Hz, 1H).

reactant | Butyl-2-trifluoroacetylvinylether | 70.29 mmol, 13.79 g | C(CCC)C(=COC=C(CCCC)C(C(F)(F)F)=O)C(C(F)(F)F)=O | C16H20F6O3
reactant | nitroacetamide | 63.90 mmol, 6.65 g | [N+](=O)([O-])CC(=O)N | C2H4N2O3
reactant | sodium ethoxide | 63.90 mmol, 4.35 g | [O-]CC.[Na+]
solvent | ethanol | 320 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Nitro-6-trifluoromethyl-2-pyridinone | 5.73 g | [N+](=O)([O-])C=1C(NC(=CC1)C(F)(F)F)=O | C6H3F3N2O3
